US07749992B2
Step 4. Preparation of 8-Bromo-9-methyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester
Add a solution of 2-[(3-Ethoxycarbonyl-propyl)-isopropoxycarbonyl-amino]-4-bromo-3-methyl-benzoic acid methyl ester (3.47 g, 7.81 mmol) in THF (120 mL) to a solution of potassium tert-butoxide (15.6 mL, 15.62 mmol, 1 M in THF) in THF (120 mL) at room temperature under an atmosphere of nitrogen. After 2 h, pour the mixture into ice/water. Treat aqueous phase with 1M HCl to pH neutral and extract with dichloromethane. Dry the organic layer over anhydrous magnesium sulfate, filter, and remove the solvent under reduced pressure. Dissolve the former crude in DMSO (66 mL) and add water (4 drops) followed by addition of lithium chloride (0.882 g, 20.8 mmol) and heat the resulting solution at 160° C. for 2 h. Cool the mixture to room temperature and pour into brine. Extract the mixture with ethyl acetate. Dry the organic layers over anhydrous magnesium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (2.0 g, 72% over two steps): MS (ES+): 341 (M+H).

reactant | 2-[(3-Ethoxycarbonyl-propyl)-isopropoxycarbonyl-amino]-4-bromo-3-methyl-benzoic acid methyl ester | 7.81 mmol, 3.47 g | COC(C1=C(C(=C(C=C1)Br)C)N(C(=O)OC(C)C)CCCC(=O)OCC)=O | C19H26BrNO6
reactant | potassium tert-butoxide | 15.62 mmol, 1 M, 15.6 mL | CC(C)([O-])C.[K+]
reactant | HCl | 1M | Cl | ClH
reactant | lithium chloride | 20.8 mmol, 0.882 g | [Cl-].[Li+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 8-Bromo-9-methyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 2.0 g, 72% | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=CC(=C2C)Br | C15H18BrNO3
